US07279575B2
A mixture of beta-homophenylalanine (9.1 g, 50.94 mmol), di-tert-butyl dicarbonate (12.2 g, 56.1 mmol), dioxane (180 mL), water (18 mL) and triethylamine (8.5 mL) was stirred at RT overnight. After concentration and multiple strippings with toluene, 3-[(tert-butoxycarbonyl)amino]-4-phenylbutanoic acid was obtained as an oil and used directly in the next step. It was dissolved in dry dichloromethane (370 mL), Meldrum acid (8.1 g, 56.1 mmol) and DMAP (9.7 g, 79 mmol) were added to it, the mixture was cooled to −5° C. and dicyclohexylcarbodiimide (12.6 g, 61 mmol) was added. After addition the reaction mixture was kept in refrigerator overnight. The precipitate was filtered off and washed with dichloromethane. The filtrate was diluted with ethylacetate, washed in sequence with 10% aq KHSO4, water, brine then concentrated to yield crude tert-butyl 1-benzyl-3-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-yl)-3-oxopropylcarbamate that was dissolved in ethylacetate (250 mL) and refluxed 2 h. After concentration and treatment with diisopropylether the crystallized compound was filtered and washed to give tert-butyl 2-benzyl-4,6-dioxopiperidine-1-carboxylate as a white powder in 75% overall yield.

reactant | beta-homophenylalanine | 50.94 mmol, 9.1 g | N[C@@H](CC1=CC=CC=C1)CC(=O)O | C10H13NO2
reactant | di-tert-butyl dicarbonate | 56.1 mmol, 12.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dioxane | 180 mL | O1CCOCC1 | C4H8O2
reactant | water | 18 mL | O | H2O
solvent | triethylamine | 8.5 mL | C(C)N(CC)CC | C6H15N
product | 3-[(tert-butoxycarbonyl)amino]-4-phenylbutanoic acid | C(C)(C)(C)OC(=O)NC(CC(=O)O)CC1=CC=CC=C1 | C15H21NO4
